US07915250B2
To a solution of the 1-(diphenylmethyl)-N-(1-methylethyl)-3-[(phenylmethyl)amino]azetidine-3-carboxamide (0.40 g, 0.97 mmol) in tetrahydrofuran (10 mL) at room was added a solution of lithium aluminum hydride in tetrahydrofuran (1M, 2.90 mL, 2.90 mmol), and the resulting mixture was stirred at 50° C. for 3 h. The reaction mixture was cooled to room temperature, quenched with 20% aqueous hydroxide solution (1 mL), diluted with ether (50 mL) and filtered. The filtrate was washed with brine solution (20 mL each), dried over sodium sulfate, filtered and concentrated to give an oily residue which was purified by flash chromatography (silica gel, eluting with 5% methanol-dichloromethane) to give 1-(diphenylmethyl)-3-{[(1-methylethyl)amino]methyl}-N-(phenylmethyl)azetidin-3-amine (0.35 g, 90% yield), 1H NMR (400 MHz, CDCl3): 7.42-7.14 (m, 15H), 4.34 (s, 1H), 3.66 (s, 2H), 3.22-3.18 (d, 2H), 2.97 (s, 2H), 2.90-2.86 (d, 2H), 2.68-2.62 (p, 1H), 1.09-1.07 (d, 6H); MS (EI) for C27H33N3: 400 (MH+).

reactant | 1-(diphenylmethyl)-N-(1-methylethyl)-3-[(phenylmethyl)amino]azetidine-3-carboxamide | 0.97 mmol, 0.40 g | C1(=CC=CC=C1)C(N1CC(C1)(C(=O)NC(C)C)NCC1=CC=CC=C1)C1=CC=CC=C1 | C27H31N3O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.90 mmol, 1M, 2.90 mL | O1CCCC1 | C4H8O
product | 1-(diphenylmethyl)-3-{[(1-methylethyl)amino]methyl}-N-(phenylmethyl)azetidin-3-amine | 0.35 g, 90% yield | C1(=CC=CC=C1)C(N1CC(C1)(NCC1=CC=CC=C1)CNC(C)C)C1=CC=CC=C1 | C27H33N3
